US08334301B2
tert-butyl({5-[acetyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)methylcarbamate
To a suspension of sodium hydride (17 mg) in tetrahydrofuran (2 mL) and N,N-dimethylformamide (1 mL) was added tert-butyl methyl{[1-phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methyl}carbamate (108 mg). After stirring at room temperature for 15 min, acetyl chloride (45 mg) was added, and the mixture was further stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=7:1→3:1) to give the title compound as a colorless oil (yield 83 mg, yield 69%).

reactant | sodium hydride | 17 mg | [H-].[Na+]
reactant | tert-butyl methyl{[1-phenyl-5-(phenylamino)-1H-pyrazol-3-yl]methyl}carbamate | 108 mg | CN(C(OC(C)(C)C)=O)CC1=NN(C(=C1)NC1=CC=CC=C1)C1=CC=CC=C1 | C22H26N4O2
reactant | acetyl chloride | 45 mg | C(C)(=O)Cl | C2H3ClO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | tert-butyl({5-[acetyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)methylcarbamate | yield 83 mg, yield 69% | C(C)(C)(C)OC(N(C)CC1=NN(C(=C1)N(C1=CC=CC=C1)C(C)=O)C1=CC=CC=C1)=O | C24H28N4O3
